US07811370B2
In a 250 mL round-bottomed flask fitted with a reflux condenser was added 11,12-bis(8-isocyanatooctyl)docosane (diamer diisocyanate, Cognis Corp.) (11.74 g, 19.03 mmol) and 2-amino-6-methylpyrimidin-4(1H)-one (5 g, 40.0 mmol) in Pyridine (50 mL) to give a white suspension. The mixture was heated to 95 deg/C. under argon and stirred for 24 h. The pyridine was removed and the residue was taken up in chloroform. The hazy solution was filtered and the resulting clear solution was concentrated to about 100 ml and the viscous solution was poured into a rapidly stirring solution (1.5 L) of MeOH upon which a white solid formed. The white powder was collected by vacuum filtration and dried at 50 deg for 24 h to give 1,1′-(9,10-didecyloctadecane-1,18-diyl)bis(3-(6-methyl-4-oxo-1,4-dihydropyrimidin-2-yl)urea) (14.8 g)

reactant | 11,12-bis(8-isocyanatooctyl)docosane | 19.03 mmol, 11.74 g | N(=C=O)CCCCCCCCC(CCCCCCCCCC)C(CCCCCCCCCC)CCCCCCCCN=C=O | C40H76N2O2
reactant | 2-amino-6-methylpyrimidin-4(1H)-one | 40.0 mmol, 5 g | NC=1NC(=CC(N1)=O)C | C5H7N3O
solvent | Pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 1,1′-(9,10-didecyloctadecane-1,18-diyl)bis(3-(6-methyl-4-oxo-1,4-dihydropyrimidin-2-yl)urea) | 14.8 g | C(CCCCCCCCC)C(CCCCCCCCNC(=O)NC=1NC(=CC(N1)=O)C)C(CCCCCCCCNC(=O)NC=1NC(=CC(N1)=O)C)CCCCCCCCCC | C50H90N8O4
